2192-08-27 06:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2192-8-27**] 05:19 AM
   -found to be pulseless on medicine [**Hospital1 **], bradycardic.  ABG
   7.12/70/90/24
   -b/l rales on exam, 40mg IV lasix- UOP to 200cc but improvement on exam
   Allergies:
   Aspirin
   Unknown;
   Penicillins
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2192-8-25**] 08:37 AM
   Amikacin - [**2192-8-25**] 08:37 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2192-8-27**] 05:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-27**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 83 (83 - 117) bpm
   BP: 99/47(58) {99/47(58) - 129/104(109)} mmHg
   RR: 16 (16 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77 kg (admission): 66.5 kg
   Height: 66 Inch
    Mixed Venous O2% Sat: 87 - 87
   Total In:
                                                                     11 mL
   PO:
   TF:
   IVF:
                                                                     11 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    120 mL
   Urine:
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -109 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/41/276/22/3, lactate 3.8
   Ve: 9.9 L/min
   PaO2 / FiO2: 276
   Physical Examination
   GEN: intubated, sedated
   HEENT: anicteric, MMD, pale conjunctiva
   CV: RRR S1S2 no m/r/g no JVD
   PULM: Crackles at bilateral bases, scant rales otherwise good air flow
   ABD: soft NT, ND +bs
   GU: foley draining clear urine
   EXT: WWP 2+ radial pulses, 1+dp pulses, no cyanosis
   SKIN: bruising, scratches on R wrist; healing scars on R shoulder, no
   rashes, petechiae
   Labs / Radiology
   312 K/uL
   9.4 g/dL
   216 mg/dL
   1.1 mg/dL
   22 mEq/L
   4.7 mEq/L
   12 mg/dL
   103 mEq/L
   140 mEq/L
   28.7 %
   26.1 K/uL
        [image002.jpg]
                             [**2192-8-22**]  07:59 PM
                             [**2192-8-23**]  03:58 AM
                             [**2192-8-23**]  05:43 PM
                             [**2192-8-23**]  08:36 PM
                             [**2192-8-24**]  03:46 AM
                             [**2192-8-24**]  09:00 PM
                             [**2192-8-25**]  01:47 AM
                             [**2192-8-25**]  02:07 AM
                             [**2192-8-27**]  04:35 AM
                             [**2192-8-27**]  05:32 AM
   WBC
   22.8
   24.0
   26.1
   Hct
   26.8
   26.1
   28.7
   Plt
   133
   195
   312
   Cr
   0.7
   0.7
   0.8
   0.9
   0.9
   1.1
   TCO2
   24
   28
   27
   28
   Glucose
   61
   90
   104
   141
   69
   216
   Other labs: PT / PTT / INR:15.7/37.7/1.4, CK / CKMB /
   Troponin-T:32/4/0.14, ALT / AST:13/18, Alk Phos / T Bili:108/0.3,
   Differential-Neuts:83.0 %, Band:3.0 %, Lymph:8.0 %, Mono:5.0 %, Eos:0.0
   %, Fibrinogen:661 mg/dL, Lactic Acid:4.6 mmol/L, Albumin:2.5 g/dL,
   LDH:161 IU/L, Ca++:7.2 mg/dL, Mg++:2.3 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   82 year old female with a history of breast cancer, CVA, hypertension
   with recent MICU stay for E.coli urosepsis, providencia UTI, and RLL
   aspiration PNA presents from medical floor after cardiopulmonary
   resuscitation for pulselessness.
   .
   # Cardiopulmonary Arrest: Given the fact that patient  quickly regained
   rhythm/pulse after intubation and 1gm epinephrine w/ CPR and in setting
   of underlying RLL infiltrate, concern for worsening pulmonary edema on
   the floor, most likely etiology respiratory arrest w/ mucous plug.
   There were no changes on EKG to support a cardiac origin of the arrest.
   -support with ventilation
   - treat underlying cause of PNA
   -IVF as needed
   - monitor on telemetry
   .
   # Hypercarbic Respiratory Failure: Patient essentially failed
   extubation trial since [**8-24**]. Now s/p intubation with resolution in
   hypercarbia, no evidence of hypoxia.  Likely etiology is mucus plug and
   pulmonary edema as above, leading to CPA. Mucus plug could have been
   dislodged during intubation which would speak to her rapid recovery
   post-intubation (as opposed to a cardiac origin). Given 40mg IV lasix
   with mild increase in urine output but significant improvement on lung
   exam. Today will work on wean oxygen as tolerated.
   - continue on AC and wean FIO2 today, try PS as tolerated
   - follow ABGs, lactate
   - f/u CXR
   - suction, nebs prn
   .
   # HAP Aspiration PNA: Patient on broad spectrum coverage since
   admission. CT from [**8-25**] showed persistent RLL infiltrate.
   - continue vanc/levo/flagyl, patient currently on day 10 of ABX, but
   given poor clinical response will continue for additional 4 days. Also
   would benefit from bronchoscopy to further evaluate infectious
   etiology. Patient is at high risk of aspiration as well given her
   history of CVA and baseline mental status.
   - f/u pending cultures
   - consider bronchoscopy
   - repeat sputum and blood cultures
   .
   # Urosepsis: E.coli bacteremia, and E.coli/providencia UTI. Repeat
   cultures have been negative. Has been on appropriate antibiotics since
   [**8-24**], will plan for 2 week course from this date.
   - continue amikacin to complete course, f/u send out level
   .
   # Acute Kidney Failure: Creatinine 1.1 from baseline of 0.6. Had been
   >2 on initial presentation and was improving prior to arrest.  Likely
   prerenal in etiology secondary to episode of hypoprofusion.
   - IVF boluses to maintain urine output
   - trend creatinine
   .
   # Hypertension:  Pt with hypotensive episode initially, held
   metoprolol.
   -          restart metoprolol as tolerated
   -          hold lisinopril
   .
   # Dementia:  Currently intubated without need for sedative medications
   - continue namenda and aricept
   .
   # FEN: IVF as above, monitor electrolytes, NGT in place so will start
   tube feeds this am
   .
   # Prophylaxis: SC heparin, bowel regimen, PPI
   .
   # Communcation: Sister [**Name (NI) **] [**Name (NI) 5333**] [**Telephone/Fax (1) 5334**]
   .
   # Code: FC
   .
   # Disposition: ICU care for now, possible c/o to floor tomorrow
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-8-27**] 05:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-08-27 09:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   -Patient to medcial floor this w/e
   -Nursing check un-eventful
   -10 minutes later patient found pulseless and apneic
   -Initial rhythm upon return was junctional bradycardia.
   -As prodrome patient had low grade fever but otherwise was without
   significant events
   24 Hour Events:
 MULTI LUMEN - START [**2192-8-27**] 05:19 AM
 INVASIVE VENTILATION - START [**2192-8-27**] 05:20 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Aspirin
   Unknown;
   Penicillins
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Amikacin - [**2192-8-27**] 08:04 AM
   Vancomycin - [**2192-8-27**] 08:28 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2192-8-27**] 05:01 AM
   Pantoprazole (Protonix) - [**2192-8-27**] 08:04 AM
   Heparin Sodium (Prophylaxis) - [**2192-8-27**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Nutritional Support: NPO
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2192-8-27**] 08:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 71 (71 - 117) bpm
   BP: 145/55(76) {99/47(58) - 145/104(109)} mmHg
   RR: 16 (16 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77 kg (admission): 66.5 kg
   Height: 66 Inch
   Mixed Venous O2% Sat: 87 - 87
   Total In:
                                                                    396 mL
   PO:
                                                                     50 mL
   TF:
   IVF:
                                                                    346 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    220 mL
   Urine:
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    176 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/41/276/22/3
   Ve: 7.7 L/min
   PaO2 / FiO2: 552
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : R>L, Diminished: right base, Rhonchorous:
   R>L)
   Resistance=7cm H2O/l/sec
   Compliance=40cc/cmH20
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
withdraws to pain in all extremities, she has intact
   corneal reflexes but pin-point and minimal reactive pupils
   Labs / Radiology
   9.4 g/dL
   312 K/uL
   216 mg/dL
   1.1 mg/dL
   22 mEq/L
   4.7 mEq/L
   12 mg/dL
   103 mEq/L
   140 mEq/L
   28.7 %
   26.1 K/uL
        [image002.jpg]
                             [**2192-8-22**]  07:59 PM
                             [**2192-8-23**]  03:58 AM
                             [**2192-8-23**]  05:43 PM
                             [**2192-8-23**]  08:36 PM
                             [**2192-8-24**]  03:46 AM
                             [**2192-8-24**]  09:00 PM
                             [**2192-8-25**]  01:47 AM
                             [**2192-8-25**]  02:07 AM
                             [**2192-8-27**]  04:35 AM
                             [**2192-8-27**]  05:32 AM
   WBC
   22.8
   24.0
   26.1
   Hct
   26.8
   26.1
   28.7
   Plt
   133
   195
   312
   Cr
   0.7
   0.7
   0.8
   0.9
   0.9
   1.1
   TCO2
   24
   28
   27
   28
   Glucose
   61
   90
   104
   141
   69
   216
   Other labs: PT / PTT / INR:15.7/37.7/1.4, CK / CKMB /
   Troponin-T:32/2/0.14, ALT / AST:13/18, Alk Phos / T Bili:108/0.3,
   Differential-Neuts:83.0 %, Band:3.0 %, Lymph:8.0 %, Mono:5.0 %, Eos:0.0
   %, Fibrinogen:661 mg/dL, Lactic Acid:4.6 mmol/L, Albumin:2.5 g/dL,
   LDH:161 IU/L, Ca++:7.2 mg/dL, Mg++:2.3 mg/dL, PO4:4.3 mg/dL
   Fluid analysis / Other labs: 7.43/41/76
   Imaging: CXR-right sided infiltrate largely unchanged with peri-hilar
   fullness noted and LL infiltrate unchanged
   CT Scan [**8-25**]-Right sided RML and RLL consolidation without
   endobronchial lesion.
   Microbiology: Sparse oral flora on sputum most recently
   Assessment and Plan
   82 yo female with h/o breast CA with recent MICU admission and
   prolonged respiratory failure.  She was transferred to medical floor
   extubated.  Now patient found pulseless and apneic and had intubation
   and initial rhythm junctional and had rapid response to ACLS protocol.
   Upon intubation patient had minimal secretions and minimal evidence of
   bronchospasm.  Intubation was completed without sedation required.
   This was fundamentally a hypercarbic respiratory arrest based upon ABG
   but antecedent history is hard to define as patient was found apneic
   and pulseless.  She does have antecedent fever, rising WBC count and
   bandemia on CBC.  Is likely respiratory related arrest with rapid
   return to circulation with intubation and only single dose of EPI.  [**Month (only) 60**]
   well be mucus plug and hypoxemic respiratory failure.  She has ongoing
   findings consistent with persistent peumonia and pneumonitis in the RML
   and RLL distribution.
   1)Acute Respiratory Failure-Do not see clear new overwhelming insult
   and ventilatory mechanics are reassuring
   -Pneumonia-
   Vanco/Levo/Flagyl x10 days is completed, continue for 2 week course
   total
   Will need to continue to follow CT scan to clearance of region because
   it is not completely typical for acute pneumonia in persistence
   -Hypercarbic Respiratory Failure-
   Change to PSV and attempt to wean
   Goal PCO2=40-45
   If ongoing aggressive measures are desired she will need trach to
   continue safe and effective care
   1.5)Altered Mental Status-
   -Continue Namenda/Aricept
   -Repeat neuro exam
   2)Leukocytosis-
   -Will check C. Diff
   -Continue to Rx pulmonary source for 4 days
   -Providencia has been treated with Amikacin
   -F/U Blood cultures
   3)Acute Renal Failure-
   -Assure hydration
   -Minimize offending agents
   ICU Care
   Nutrition: npo
   Glycemic Control:  Sliding Scale Insulin
   Lines:
   Multi Lumen - [**2192-8-27**] 05:19 AM
has been in since previous admission
   to ICU
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
will need to clarify future goals of care with
   sister
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2192-08-28 12:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ANGIOGRAPHY - At [**2192-8-27**] 01:00 PM
   PICC placement under flouro
 PICC LINE - START [**2192-8-27**] 01:15 PM
 MULTI LUMEN - STOP [**2192-8-27**] 01:30 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Aspirin
   Unknown;
   Penicillins
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2192-8-27**] 06:19 PM
   Amikacin - [**2192-8-28**] 07:30 AM
   Vancomycin - [**2192-8-28**] 08:00 AM
   Metronidazole - [**2192-8-28**] 11:37 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-8-28**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2192-8-28**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2192-8-28**] 12:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.2
   HR: 70 (61 - 79) bpm
   BP: 150/63(84) {129/50(70) - 165/71(96)} mmHg
   RR: 29 (14 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77 kg (admission): 66.5 kg
   Height: 66 Inch
             Total In:
                                                                    945 mL
                                                                  1,397 mL
   PO:
                                                                    100 mL
             TF:
             46 mL
   IVF:
                                                                    785 mL
                                                                  1,081 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    370 mL
   Urine:
                                                                    850 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     95 mL
                                                                  1,027 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 348 (311 - 354) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 111
   SpO2: 100%
   ABG: ///30/
   Ve: 9.6 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed.  Patient has no response to verbal stimulation.  With
   noxious stimulation she will have withdrawl response.
   Labs / Radiology
   7.5 g/dL
   548 K/uL
   83 mg/dL
   1.1 mg/dL
   30 mEq/L
   2.6 mEq/L
   14 mg/dL
   105 mEq/L
   142 mEq/L
   23.4 %
   15.7 K/uL
        [image002.jpg]
                             [**2192-8-23**]  05:43 PM
                             [**2192-8-23**]  08:36 PM
                             [**2192-8-24**]  03:46 AM
                             [**2192-8-24**]  09:00 PM
                             [**2192-8-25**]  01:47 AM
                             [**2192-8-25**]  02:07 AM
                             [**2192-8-27**]  04:35 AM
                             [**2192-8-27**]  05:32 AM
                             [**2192-8-28**]  04:12 AM
                             [**2192-8-28**]  08:43 AM
   WBC
   24.0
   26.1
   16.1
   15.7
   Hct
   26.1
   28.7
   22.5
   23.4
   Plt
   195
   312
   583
   548
   Cr
   0.8
   0.9
   0.9
   1.1
   1.1
   TropT
   0.10
   TCO2
   24
   28
   27
   28
   Glucose
   104
   141
   69
   216
   83
   Other labs: PT / PTT / INR:15.5/27.6/1.4, CK / CKMB /
   Troponin-T:37/3/0.10, ALT / AST:[**9-23**], Alk Phos / T Bili:79/0.3,
   Amylase / Lipase:153/139, Differential-Neuts:88.3 %, Band:3.0 %,
   Lymph:7.9 %, Mono:3.0 %, Eos:0.7 %, Fibrinogen:661 mg/dL, Lactic
   Acid:4.6 mmol/L, Albumin:2.3 g/dL, LDH:256 IU/L, Ca++:6.5 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR--Lines in reasonable position, prominent right sided
   infiltrate noted and may be slight decrease in size of infiltrates.
   Assessment and Plan
   82 yo female now with recurrent respiratory failure while being cared
   for on the medical floor.  She had subsequent PEA arrest and successful
   resuscitation with intubation.  The concerning issue is that the
   primary insult is likely recurrent aspiration in the setting of
   incapacity to protect her airway in the setting of what is likley
   background levels of secretions and persistenly impaired mental
   status.  We have not identified a new fully reversible insult and would
   expect her to remain at risk for acute respiratory failure going
   forward.
   1)Respiratory Failure Acute-
   -Will keep fluid balance negative
   -Avoid sedating medications
   -Persistent secretions noted with frequent suctioning
   -Will continue with antibiotics--Amikacin/Flagyl/Levofloxacin/Vanco
   -Barriers to extubation are primarily impaired mental status which has
   worsened following arrest event with persistent dense impairment of
   sensorium.  This is in addition to her pulmonary secretions.
   -Will need to clarify goals of care with family prior to extubation
   attempt.
   2)Anemia-Does have an acute change and will need to
   -OB stool
   -Repeat HCT today
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-8-28**] 09:43 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2192-8-27**] 01:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2192-08-29 11:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2192-8-28**] 03:08 PM
   Recurrent Fevers noted
   Initial discussions with family in regards to DNI status continued
   PSV trial clouded by apnea
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Aspirin
   Unknown;
   Penicillins
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2192-8-27**] 06:19 PM
   Metronidazole - [**2192-8-28**] 09:06 PM
   Amikacin - [**2192-8-28**] 09:07 PM
   Vancomycin - [**2192-8-29**] 08:27 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-8-29**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-29**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.3
   HR: 70 (57 - 79) bpm
   BP: 147/63(83) {128/51(71) - 160/68(90)} mmHg
   RR: 27 (11 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77 kg (admission): 66.5 kg
   Height: 66 Inch
             Total In:
                                                                  2,294 mL
                                                                    846 mL
   PO:
             TF:
                                                                    324 mL
                                                                    396 mL
   IVF:
                                                                  1,400 mL
                                                                    360 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                    870 mL
   Urine:
                                                                  2,400 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -106 mL
                                                                    -24 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 360 (360 - 450) mL
   Vt (Spontaneous): 360 (319 - 480) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 8.6 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   666 K/uL
   152 mg/dL
   1.1 mg/dL
   32 mEq/L
   3.5 mEq/L
   13 mg/dL
   102 mEq/L
   138 mEq/L
   24.9 %
   15.4 K/uL
        [image002.jpg]
                             [**2192-8-24**]  03:46 AM
                             [**2192-8-24**]  09:00 PM
                             [**2192-8-25**]  01:47 AM
                             [**2192-8-25**]  02:07 AM
                             [**2192-8-27**]  04:35 AM
                             [**2192-8-27**]  05:32 AM
                             [**2192-8-28**]  04:12 AM
                             [**2192-8-28**]  08:43 AM
                             [**2192-8-28**]  02:53 PM
                             [**2192-8-29**]  05:54 AM
   WBC
   24.0
   26.1
   16.1
   15.7
   15.4
   Hct
   26.1
   28.7
   22.5
   23.4
   24.9
   Plt
   195
   312
   583
   548
   666
   Cr
   0.9
   0.9
   1.1
   1.1
   1.0
   1.1
   TropT
   0.10
   TCO2
   28
   27
   28
   Glucose
   141
   69
   216
   83
   105
   152
   Other labs: PT / PTT / INR:15.4/27.4/1.4, CK / CKMB /
   Troponin-T:37/3/0.10, ALT / AST:[**9-23**], Alk Phos / T Bili:79/0.3,
   Amylase / Lipase:153/139, Differential-Neuts:88.3 %, Band:3.0 %,
   Lymph:7.9 %, Mono:3.0 %, Eos:0.7 %, Fibrinogen:661 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.3 g/dL, LDH:256 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR-PICC and ETT in good position.  There is increased
   opacities in Right lung in basal segments
   Assessment and Plan
   82 yo female with recurrent acute respiratory failure in the setting of
   persistent dementia, secretions and incapacity to maintain patent
   airway and management of secretions.  She has had persistent
   ventilatory requirement and limited improvement in mental status.
   1)Respiratory Failure-
   -Vanco/Levoflox/Flagyl
   -Continue with PSV support
   -Patient with continued oral secretions and incapacity to maintain gag
   reflex to prevent ongoing large volume of aspiration
   -Mental status remains primary barrier to extubation
   -Will need to consider goals of care prior to decision to extubate as
   risk factors for acute respiratory failure are persistent.
   2)Alteration of Awareness-
   -Concern for persistent dense imparied sensorium
will pursue CT head
   -No sedation given
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-8-29**] 02:32 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2192-8-27**] 01:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
will need to readdress with family
   Disposition :ICU
   Total time spent: 35 minutes

2192-08-30 10:44:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failiure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with worsening tachypnea
   Patient with worsening encephaolopathy and decreased responsiveness now
   showing minimal response to painful stimuli.
   Scopalamine patch and TCA started for aid in control of secretions
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Aspirin
   Unknown;
   Penicillins
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2192-8-29**] 12:30 PM
   Levofloxacin - [**2192-8-29**] 06:10 PM
   Vancomycin - [**2192-8-30**] 07:45 AM
   Amikacin - [**2192-8-30**] 08:45 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2192-8-29**] 11:45 AM
   Lansoprazole (Prevacid) - [**2192-8-30**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2192-8-30**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-30**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 86 (64 - 88) bpm
   BP: 175/74(99) {133/55(77) - 175/74(99)} mmHg
   RR: 28 (16 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77 kg (admission): 66.5 kg
   Height: 66 Inch
             Total In:
                                                                  1,769 mL
                                                                    998 mL
   PO:
             TF:
                                                                    799 mL
                                                                    433 mL
   IVF:
                                                                    640 mL
                                                                    405 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                    405 mL
   Urine:
                                                                  2,440 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -671 mL
                                                                    593 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 312 (260 - 385) mL
   PS : 12 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 328
   SpO2: 97%
   ABG: 7.47/47/65/32/8
   Ve: 10 L/min
   PaO2 / FiO2: 163
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   781 K/uL
   148 mg/dL
   1.0 mg/dL
   32 mEq/L
   4.4 mEq/L
   15 mg/dL
   102 mEq/L
   138 mEq/L
   25.9 %
   18.4 K/uL
        [image002.jpg]
                             [**2192-8-25**]  02:07 AM
                             [**2192-8-27**]  04:35 AM
                             [**2192-8-27**]  05:32 AM
                             [**2192-8-28**]  04:12 AM
                             [**2192-8-28**]  08:43 AM
                             [**2192-8-28**]  02:53 PM
                             [**2192-8-29**]  05:54 AM
                             [**2192-8-29**]  04:28 PM
                             [**2192-8-30**]  04:00 AM
                             [**2192-8-30**]  05:08 AM
   WBC
   16.1
   15.7
   15.4
   18.4
   Hct
   22.5
   23.4
   24.9
   25.9
   Plt
   583
   548
   666
   781
   Cr
   1.1
   1.1
   1.0
   1.1
   1.0
   1.0
   TropT
   0.10
   TCO2
   27
   28
   35
   Glucose
   [**Telephone/Fax (2) 5596**]2
   150
   148
   Other labs: PT / PTT / INR:15.3/27.6/1.4, CK / CKMB /
   Troponin-T:37/3/0.10, ALT / AST:[**9-23**], Alk Phos / T Bili:79/0.3,
   Amylase / Lipase:153/139, Differential-Neuts:88.3 %, Band:3.0 %,
   Lymph:7.9 %, Mono:3.0 %, Eos:0.7 %, Fibrinogen:661 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:256 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Imaging: CT head--no acute infarct or bleeding
   Assessment and Plan
   82 yo female with persistent and recurrent respiratory failure in the
   setting of altered mental status and aspiration and recurrent
   respiratory failure.  She has failed to have any significant
   improvement in mental status to the point of being able to reasonably
   consider extubation.  In addition there has been a significant decrease
   in alertness and inability to establish response to even painful
   stimuli at this point.
   1)Respiratory Failure--Acute and Chronic-
   -PSV to continue for support as patient unable to support ventilation
   independently
   -Vanco/Amikacin/Flagyl
   2)Alteration of Awareness-
   -Medications in place
   -Will have to consider complete absence of meaningful improvement and
   with persistent absence of responsiveness that patient is likely to
   remain in this persistent state without reasonable expectation of
   meaningful improvement.
   3)Disposition---Family meeting needed and scheduled for today to
   discuss plan of care in the setting of current comatose state.  Current
   clinical decline would suggest that DNR status at a minimum is
   suggested to family in addition to consideration of CMO status
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-8-30**] 04:00 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2192-8-27**] 01:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes